US04898871
N,N'-Carbonyldiimidazole (1.8 g) is added at a temperature in the region of 25° C. to a solution of [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid (4 g) in anhydrous dimethylformamide (85 cc), and the mixture is stirred for 2 hours at this temperature. 2-Dimethylaminoethylamine (0.7 g) is then added and the mixture is stirred for 18 hours at this same temperature. The reaction mixture is then poured into water (200 cc) and extracted with methylene chloride (3×200 cc). The organic extracts are washed with water, dried and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is crystallized by stirring in ethyl ether. [2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-(2-dimethylamino ethyl)acetamide (3.5 g), m.p. 146° C., is thereby obtained.

reactant | [2-(7-methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]acetic acid | 4 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)O | C19H15N3O5
reactant | 2-Dimethylaminoethylamine | 0.7 g | CN(CCN)C | C4H12N2
reactant | water | 200 cc | O | H2O
solvent | dimethylformamide | 85 cc | CN(C=O)C | C3H7NO
product | [2-(7-Methoxy-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyloxy]-N-(2-dimethylamino ethyl)acetamide | 3.5 g | COC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)OCC(=O)NCCN(C)C | C23H25N5O4
